US03994888
t-Butyl 7-amino-3-acetoxymethyl-3-cephem-4-carboxylate.
In accordance with the procedure of Example 2, t-butyl 7-(2-carboxybenzamido)-3-acetoxymethyl-3-cephem-4-carboxylate is converted to t-butyl 7-amino-3-acetoxymethyl-3-cephem-4-carboxylate hydrochloride, which is converted to the free amine by treatment with NaHCO3 and extraction with chloroform. M.p., ir and nmr spectra are in agreement with an authentic sample prepared according to the method of R. J. Stedman, J. Med. Chem., (1966) p. 444.

reactant | t-butyl 7-(2-carboxybenzamido)-3-acetoxymethyl-3-cephem-4-carboxylate | C(=O)(O)C1=C(C(=O)NC2[C@@H]3N(C(=C(CS3)COC(C)=O)C(=O)OC(C)(C)C)C2=O)C=CC=C1 | C22H24N2O8S
reactant | t-butyl 7-amino-3-acetoxymethyl-3-cephem-4-carboxylate hydrochloride | Cl.NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)OC(C)(C)C)C1=O
product | t-Butyl 7-amino-3-acetoxymethyl-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)OC(C)(C)C)C1=O | C14H20N2O5S
